US07351858B2
Methyl 2-{[2-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-ethyl]thio}benzoate (0.085 g, 0.170 mmol) was dissolved in a mixture of acetonitrile/water (1/1, 4 ml) and lithium hydroxide (0.008 g, 0.341 mmol) was added. The reaction was performed in an single node microwave oven (5 min. 150 deg). The solvent was removed by evaporation and then HCl (2 ml, 1 M) was added. The water phase was extracted with two portions of EtOAc (20 ml). The combined organic phase was dried (MgSO4) and the solvent was removed by evaporation and gave 0.073 g of 2-{[2-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoic acid (yield 88.4%) as an oil which solidified on cooling and standing.

reactant | Methyl 2-{[2-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-ethyl]thio}benzoate | 0.170 mmol, 0.085 g | ClC1=CC=C(CN(C(COC2=CC=C(C=C2)CCSC2=C(C(=O)OC)C=CC=C2)=O)CC)C=C1 | C27H28ClNO4S
reactant | lithium hydroxide | 0.341 mmol, 0.008 g | [OH-].[Li+]
solvent | acetonitrile water | 4 ml | C(C)#N.O
product | 2-{[2-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoic acid | 0.073 g, yield 88.4% | ClC1=CC=C(CN(C(COC2=CC=C(C=C2)CCSC2=C(C(=O)O)C=CC=C2)=O)CC)C=C1 | C26H26ClNO4S
